*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:12:05 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "CLKAND2X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  CLKAND2X4 Y B A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 3.34915e-16
*|P (Y X 0 1.7000 0.8550)
*|I (Mmn2@1:d Mmn2@1 d X 0 1.1650 0.4150)
*|I (Mmp2@1:d Mmp2@1 d X 0 1.2650 1.1400)
C1 Mmp2@1:d VSS 1.81921e-16
C2 Mmn2@1:d VSS 1.32967e-16
C3 Y VSS 2.00271e-17
Rk1 Mmn2@1:d Y 0.280129 $W=0.1
Rk2 Mmp2@1:d Y 0.072960 $W=0.1
*
*|NET B 3.57242e-16
*|P (B X 0 0.7000 0.8550)
*|I (Mmn1@1:g Mmn1@1 g X 0 0.4775 0.4150)
*|I (Mmn1:g Mmn1 g X 0 0.6825 0.4150)
*|I (Mmp1:g Mmp1 g X 0 0.4775 1.0425)
C4 Mmp1:g VSS 1.90522e-16
C5 Mmn1:g VSS 5.90922e-17
C6 Mmn1@1:g VSS 5.97002e-17
C7 B VSS 4.79274e-17
Rl3 Mmp1:g Mmn1@1:g 103.296707 $W=0.039
Rl4 Mmp1:g Mmn1:g 111.252586 $W=0.039
Rk5 Mmp1:g B 45.110680 $W=0.1
*
*|NET A 4.36309e-16
*|P (A X 0 0.5000 0.6650)
*|I (Mmn0@1:g Mmn0@1 g X 0 0.3725 0.4150)
*|I (Mmn0:g Mmn0 g X 0 0.7875 0.4150)
C8 Mmn0:g VSS 5.61853e-17
C9 Mmn0@1:g VSS 5.27699e-17
C10 A VSS 3.27353e-16
Rl6 Mmn0@1:g A 28.641214 $W=0.039
Rl7 A Mmn0:g 28.641212 $W=0.039
*
*|NET 7 1.16406e-19
*|I (Mmn0@1:d Mmn0@1 d X 0 0.4250 0.4150)
*|I (Mmn1@1:s Mmn1@1 s X 0 0.4250 0.4150)
C11 Mmn0@1:d VSS 1.16406e-19
Rmw8 Mmn1@1:s Mmn0@1:d 0.001000 $W=1
*
*|NET net61 5.85707e-16
*|I (Mmn1@1:d Mmn1@1 d X 0 0.5800 0.4150)
*|I (Mmn2@1:g Mmn2@1 g X 0 1.0625 0.4150)
*|I (Mmp0@1:d Mmp0@1 d X 0 0.3750 1.0425)
*|S (net61:15 1.0050 0.6950)
C12 Mmp0@1:d VSS 1.11676e-16
C13 Mmn2@1:g VSS 3.22551e-16
C14 Mmn1@1:d VSS 6.77169e-17
C15 net61:15 VSS 8.37631e-17
Rk9 net61:15 Mmn1@1:d 75.446899 $W=0.08
Rk10 net61:15 Mmn2@1:g 0.187229 $W=0.09
Rk11 Mmp0@1:d net61:15 0.373391 $W=0.09
*
*|NET 8 2.0482e-18
*|I (Mmn1:s Mmn1 s X 0 0.7350 0.4150)
*|I (Mmn0:d Mmn0 d X 0 0.7350 0.4150)
C16 Mmn1:s VSS 2.0482e-18
Rmw12 Mmn0:d Mmn1:s 0.001000 $W=1
*
*Instance Section
*
Mmn0@1	Mmn0@1:d	Mmn0@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=1.445e-06 sca=9.50447 scb=0.0081528 scc=0.00025289
Mmn1@1	Mmn1@1:d	Mmn1@1:g	Mmn1@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=1.34e-06 sca=9.50447 scb=0.0081528 scc=0.00025289
Mmn1	Mmn1@1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=4.5e-07 sb=1.135e-06 sca=9.50447 scb=0.0081528 scc=0.00025289
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0598P	PD=0.64U	PS=0.98U
+ fw=2.6e-07 sa=5.55e-07 sb=1.03e-06 sca=9.50447 scb=0.0081528 scc=0.00025289
Mmn2@1	Mmn2@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04485P	PD=0.84U	PS=0.865U	M=4
+ fw=2.6e-07 sa=8.3e-07 sb=7.55e-07 sca=9.50447 scb=0.0081528 scc=0.00025289
Mmp0@1	Mmp0@1:d	A	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.195U
+ AD=0.0312P	AS=0.06995P	PD=0.71U	PS=1.84U	M=2
+ fw=1.95e-07 sa=1e-07 sb=1.645e-06 sca=36.6813 scb=0.0366529 scc=0.00396633
Mmp1	Mmp0@1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.195U
+ AD=0.0312P	AS=0.0641P	PD=0.71U	PS=1.83U	M=2
+ fw=1.95e-07 sa=3.05e-07 sb=1.44e-06 sca=31.0619 scb=0.0271542 scc=0.0035377
Mmp2@1	Mmp2@1:d	Mmn2@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06673P	PD=1.1U	PS=1.3075U	M=4
+ fw=3.9e-07 sa=5.45e-07 sb=7.55e-07 sca=20.0159 scb=0.0168107 scc=0.00184273
.ENDS
.END
