*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:12:38 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "CLKBUFX16"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  CLKBUFX16 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 3.33167e-16
*|P (A X 0 3.5000 0.8550)
C1 A VSS 3.33167e-16
*
*|NET Y 1.35452e-15
*|P (Y X 0 0.3000 1.0450)
*|I (Mmn1@1:d Mmn1@1 d X 0 0.3050 0.5125)
C2 Mmn1@1:d VSS 4.8039e-16
C3 Y VSS 8.74131e-16
Rk1 Y Mmn1@1:d 0.235056 $W=0.09
*
*|NET net44 1.43979e-15
*|I (Mmn1@1:g Mmn1@1 g X 0 0.2025 0.5125)
*|I (Mmn0@1:d Mmn0@1 d X 0 3.1750 0.5300)
*|I (Mmp0@1:d Mmp0@1 d X 0 3.1750 1.1500)
*|S (net44:47 3.1300 0.7750)
C4 Mmp0@1:d VSS 1.71803e-16
C5 Mmn0@1:d VSS 8.48193e-17
C6 Mmn1@1:g VSS 1.15939e-15
C7 net44:47 VSS 2.37824e-17
Rk2 net44:47 Mmn1@1:g 0.146424 $W=0.09
Rk3 net44:47 Mmn0@1:d 0.130055 $W=0.1
Rk4 net44:47 Mmp0@1:d 0.212179 $W=0.09
*
*Instance Section
*
Mmn1@1	Mmn1@1:d	Mmn1@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.295U
+ AD=0.0472P	AS=0.04663P	PD=0.91U	PS=0.90714U	M=14
+ fw=2.95e-07 sa=1.4e-07 sb=2e-06 sca=16.4223 scb=0.0158966 scc=0.0014413
Mmn0@1	Mmn0@1:d	A	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.04118P	PD=0.84U	PS=0.8475U	M=4
+ fw=2.6e-07 sa=2e-06 sb=7.55e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp1@1	Y	Mmn1@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.445U
+ AD=0.0712P	AS=0.07033P	PD=1.21U	PS=1.20714U	M=14
+ fw=4.45e-07 sa=1.4e-07 sb=2e-06 sca=41.6034 scb=0.0375368 scc=0.00435732
Mmp0@1	Mmp0@1:d	A	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.07158P	PD=1.1U	PS=1.1675U	M=4
+ fw=3.9e-07 sa=2e-06 sb=8.55e-07 sca=18.4487 scb=0.016003 scc=0.00159615
.ENDS
.END
