*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:13:18 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "CLKBUFX6"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  CLKBUFX6 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 2.66221e-16
*|P (A X 0 1.5000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 1.2275 0.4800)
*|S (A:6 1.4900 0.7150)
C1 Mmn0:g VSS 1.43029e-16
C2 A:6 VSS 8.49568e-17
C3 A VSS 3.82344e-17
Rl1 Mmn0:g A:6 49.885075 $W=0.094
Rk2 A:6 A 0.030043 $W=0.1
*
*|NET Y 5.42677e-16
*|P (Y X 0 0.1000 0.8550)
*|I (Mmn1:d Mmn1 d X 0 0.1100 0.5050)
*|I (Mmp1:d Mmp1 d X 0 0.1100 1.1350)
C4 Mmp1:d VSS 2.97834e-16
C5 Mmn1:d VSS 2.31883e-16
C6 Y VSS 1.29606e-17
Rk3 Mmn1:d Y 0.150834 $W=0.1
Rk4 Mmp1:d Y 0.058007 $W=0.1
*
*|NET net44 6.0455e-16
*|I (Mmn1:g Mmn1 g X 0 0.2025 0.5050)
*|I (Mmn0:d Mmn0 d X 0 1.3300 0.4800)
*|I (Mmp0:d Mmp0 d X 0 1.3300 1.0950)
*|S (net44:17 1.3300 0.7850)
C7 Mmp0:d VSS 8.18986e-17
C8 Mmn0:d VSS 3.06689e-17
C9 Mmn1:g VSS 4.30949e-16
C10 net44:17 VSS 6.10338e-17
Rk5 net44:17 Mmn1:g 0.556919 $W=0.08
Rk6 net44:17 Mmn0:d 75.181847 $W=0.09
Rk7 net44:17 Mmp0:d 20.920172 $W=0.08
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.31U
+ AD=0.04836P	AS=0.049P	PD=0.932U	PS=0.94U	M=5
+ fw=3.1e-07 sa=1.4e-07 sb=1.29742e-06 sca=15.9751 scb=0.0153507 scc=0.00137372
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0415P	PD=0.84U	PS=0.87U	M=2
+ fw=2.6e-07 sa=1.165e-06 sb=3.45e-07 sca=12.8392 scb=0.0126987 scc=0.00074151
Mmp1	Mmp1:d	Mmn1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.47U
+ AD=0.07332P	AS=0.07424P	PD=1.252U	PS=1.26U	M=5
+ fw=4.7e-07 sa=1.4e-07 sb=1.2934e-06 sca=40.6416 scb=0.0369115 scc=0.00420297
Mmp0	Mmp0:d	Mmn0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0625P	PD=1.1U	PS=1.16U	M=2
+ fw=3.9e-07 sa=1.165e-06 sb=3.45e-07 sca=32.0467 scb=0.0213026 scc=0.00336306
.ENDS
.END
