*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:14:06 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "CLKINVX20"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  CLKINVX20 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 1.29306e-15
*|P (A X 0 0.5000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.2025 0.5075)
C1 Mmn0:g VSS 1.27651e-15
C2 A VSS 1.65572e-17
Rk1 Mmn0:g A 0.017178 $W=0.13
*
*|NET Y 1.63434e-15
*|P (Y X 0 3.5000 0.8550)
*|I (Mmn0:d Mmn0 d X 0 0.3050 0.5075)
*|I (Mmp0:d Mmp0 d X 0 0.3050 1.1300)
C3 Mmp0:d VSS 8.29488e-16
C4 Mmn0:d VSS 7.94284e-16
C5 Y VSS 1.05716e-17
Rk2 Mmp0:d Y 0.039508 $W=0.08
Rk3 Mmn0:d Mmp0:d 0.193719 $W=0.09
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.305U
+ AD=0.04844P	AS=0.04844P	PD=0.92765U	PS=0.92765U	M=17
+ fw=3.05e-07 sa=1.4e-07 sb=2e-06 sca=16.121 scb=0.0155296 scc=0.00139557
Mmp0	Mmp0:d	Mmn0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.46U
+ AD=0.0736P	AS=0.07301P	PD=1.24U	PS=1.2375U	M=16
+ fw=4.6e-07 sa=1.4e-07 sb=2e-06 sca=41.0128 scb=0.0371513 scc=0.00426262
Mmp0@16	Mmp0:d	Mmn0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.455U
+ AD=0.10238P	AS=0.0733P	PD=1.36U	PS=1.24U
+ fw=4.55e-07 sa=2e-06 sb=2.25e-07 sca=32.0859 scb=0.0265913 scc=0.00291711
.ENDS
.END
