*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:14:38 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "CLKINVX8"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  CLKINVX8 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 4.18053e-16
*|P (A X 0 0.5000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.2525 0.5125)
C1 Mmn0:g VSS 3.97224e-16
C2 A VSS 2.08287e-17
Rk1 Mmn0:g A 0.026587 $W=0.13
*
*|NET Y 4.55671e-16
*|P (Y X 0 1.3000 0.6650)
*|I (Mmn0:d Mmn0 d X 0 0.3550 0.5125)
*|I (Mmp0:d Mmp0 d X 0 0.3550 1.1225)
C3 Mmp0:d VSS 2.7866e-16
C4 Mmn0:d VSS 1.6262e-16
C5 Y VSS 1.4391e-17
Rk2 Mmn0:d Y 0.012330 $W=0.1
Rk3 Mmp0:d Y 0.199208 $W=0.1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.295U
+ AD=0.04636P	AS=0.04636P	PD=0.90429U	PS=0.90429U	M=7
+ fw=2.95e-07 sa=1.4e-07 sb=1.37e-06 sca=16.4223 scb=0.0158966 scc=0.0014413
Mmp0	Mmp0:d	Mmn0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.445U
+ AD=0.06993P	AS=0.06993P	PD=1.20429U	PS=1.20429U	M=7
+ fw=4.45e-07 sa=1.4e-07 sb=1.37e-06 sca=37.2769 scb=0.0322553 scc=0.00356814
.ENDS
.END
