*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:14:46 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "CLKMX2X12"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  CLKMX2X12 S0 Y A B
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET S0 5.10916e-16
*|P (S0 X 0 0.3000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.3525 0.4300)
*|I (Mmn4:g Mmn4 g X 0 0.8675 0.4025)
*|I (Mmp0:g Mmp0 g X 0 0.3525 1.2850)
*|I (Mmp2:g Mmp2 g X 0 0.7075 1.3250)
*|S (S0:2 0.3100 0.9800)
*|S (S0:5 0.7450 1.0650)
C1 Mmp2:g VSS 4.40353e-17
C2 Mmp0:g VSS 4.92173e-17
C3 Mmn4:g VSS 6.24707e-17
C4 Mmn0:g VSS 5.62263e-17
C5 S0:2 VSS 7.75658e-17
C6 S0:5 VSS 1.57299e-16
C7 S0 VSS 6.41014e-17
Rl1 S0:2 Mmn0:g 145.328781 $W=0.039
Rl2 Mmn4:g S0:5 218.796417 $W=0.039
Rl3 Mmp0:g S0:2 26.098015 $W=0.039
Rl4 S0:5 Mmp2:g 28.296703 $W=0.039
Rk5 S0 S0:5 45.408375 $W=0.1
Rk6 S0 S0:2 45.039032 $W=0.1
*
*|NET Y 9.55106e-16
*|P (Y X 0 1.7000 0.8550)
C8 Y VSS 9.55106e-16
*
*|NET A 3.14394e-16
*|P (A X 0 0.5000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.5575 0.4025)
*|I (Mmp1:g Mmp1 g X 0 0.5575 1.3250)
*|S (A:2 0.5300 0.9250)
*|S (A:4 0.5150 0.8550)
*|S (A:5 0.5150 0.9250)
*|S (A:6 0.5300 0.9250)
C9 Mmp1:g VSS 7.08078e-17
C10 Mmn1:g VSS 9.47741e-17
C11 A:5 VSS 5.20564e-17
C12 A:4 VSS 4.18614e-17
C13 A:2 VSS 5.48941e-17
Rl7 A:2 Mmn1:g 148.768692 $W=0.039
Rl8 Mmp1:g A:2 81.461006 $W=0.039
Rk9 A A:4 0.002332 $W=0.4
Rk10 A:4 A:5 0.037909 $W=0.115
Rk11 A:2 A:6 45.000000 $W=0.115
Rk12 A:5 A:6 0.002413 $W=0.4
*
*|NET B 2.34519e-16
*|P (B X 0 1.3000 1.0450)
*|I (Mmn3:g Mmn3 g X 0 1.2275 0.4025)
*|I (Mmp3:g Mmp3 g X 0 1.2275 1.3250)
*|S (B:2 1.2550 1.0500)
C14 Mmp3:g VSS 3.83313e-17
C15 Mmn3:g VSS 5.56487e-17
C16 B:2 VSS 1.01592e-16
C17 B VSS 3.89468e-17
Rl13 B:2 Mmn3:g 196.845627 $W=0.039
Rl14 Mmp3:g B:2 33.384083 $W=0.039
Rk15 B:2 B 45.011753 $W=0.465
*
*|NET S0b 5.45173e-16
*|I (Mmn0:d Mmn0 d X 0 0.2600 0.4300)
*|I (Mmn2:g Mmn2 g X 0 0.6625 0.4025)
*|I (Mmp0:d Mmp0 d X 0 0.2600 1.2850)
*|I (Mmp4:g Mmp4 g X 0 0.9725 1.3250)
*|S (S0b:1 0.7200 0.6350)
*|S (S0b:4 0.9350 1.0550)
*|S (S0b:6 0.2500 0.5000)
C18 Mmp4:g VSS 3.55183e-17
C19 Mmp0:d VSS 9.79539e-17
C20 Mmn2:g VSS 6.76997e-17
C21 Mmn0:d VSS 8.85268e-17
C22 S0b:1 VSS 1.40604e-16
C23 S0b:4 VSS 1.14871e-16
Rl16 S0b:1 Mmn2:g 87.636566 $W=0.039
Rl17 Mmp4:g S0b:4 75.002060 $W=0.039
Rk18 S0b:4 S0b:1 0.423582 $W=0.08
Rk19 S0b:1 S0b:6 0.347382 $W=0.08
Rk20 Mmn0:d S0b:6 75.000000 $W=0.08
Rk21 S0b:6 Mmp0:d 62.734966 $W=0.09
*
*|NET net148 0
*|I (Mmn1:d Mmn1 d X 0 0.6100 0.4025)
*|I (Mmn2:s Mmn2 s X 0 0.6100 0.4025)
Rmw22 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET n0 9.23964e-16
*|I (Mmn2:d Mmn2 d X 0 0.7650 0.4025)
*|I (Mmn5@1:g Mmn5@1 g X 0 1.4675 0.4550)
*|I (Mmp2:d Mmp2 d X 0 0.8400 1.3250)
*|S (n0:40 1.0950 0.6650)
C24 Mmp2:d VSS 9.88033e-17
C25 Mmn5@1:g VSS 6.50314e-16
C26 Mmn2:d VSS 5.71466e-17
C27 n0:40 VSS 1.177e-16
Rk23 n0:40 Mmn2:d 75.410767 $W=0.1
Rk24 n0:40 Mmn5@1:g 45.313354 $W=0.09
Rk25 n0:40 Mmp2:d 62.578918 $W=0.09
*
*|NET net140 8.56299e-18
*|I (Mmn4:s Mmn4 s X 0 1.0475 0.4025)
*|I (Mmn3:d Mmn3 d X 0 1.0475 0.4025)
C28 Mmn4:s VSS 8.56299e-18
Rmw26 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET net123 3.58658e-18
*|I (Mmp1:d Mmp1 d X 0 0.6325 1.3250)
*|I (Mmp2:s Mmp2 s X 0 0.6325 1.3250)
C29 Mmp1:d VSS 3.58658e-18
Rmw27 Mmp2:s Mmp1:d 0.001000 $W=1
*
*|NET net115 4.99478e-18
*|I (Mmp4:s Mmp4 s X 0 1.1000 1.3250)
*|I (Mmp3:d Mmp3 d X 0 1.1000 1.3250)
C30 Mmp4:s VSS 4.99478e-18
Rmw28 Mmp3:d Mmp4:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0383P	PD=0.8U	PS=0.84U
+ fw=2.6e-07 sa=1.4e-07 sb=1.59808e-06 sca=10.104 scb=0.00906063 scc=0.000325539
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.205U
+ AD=0.0123P	AS=0.0383P	PD=0.53U	PS=0.84U
+ fw=2.05e-07 sa=3.45e-07 sb=2e-06 sca=8.84876 scb=0.0071018 scc=0.000159248
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.205U
+ AD=0.0328P	AS=0.0123P	PD=0.73U	PS=0.53U
+ fw=2.05e-07 sa=4.5e-07 sb=2e-06 sca=8.84876 scb=0.0071018 scc=0.000159248
Mmn4	Mmn2:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.205U
+ AD=0.0328P	AS=0.06458P	PD=0.73U	PS=1.04U
+ fw=2.05e-07 sa=6.55e-07 sb=2e-06 sca=8.84876 scb=0.0071018 scc=0.000159248
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.205U
+ AD=0.06458P	AS=0.05048P	PD=1.04U	PS=1.01U
+ fw=2.05e-07 sa=1.015e-06 sb=2e-06 sca=8.84876 scb=0.0071018 scc=0.000159248
Mmn5@1	Y	Mmn5@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.31U
+ AD=0.0496P	AS=0.05217P	PD=0.94U	PS=0.963U	M=10
+ fw=3.1e-07 sa=8.6379e-07 sb=2e-06 sca=11.8347 scb=0.0112322 scc=0.000626052
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0576P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=1.4e-07 sb=1.61026e-06 sca=16.3241 scb=0.0161972 scc=0.000342398
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.03255P	AS=0.0576P	PD=0.83U	PS=1.1U
+ fw=3.1e-07 sa=3.45e-07 sb=2e-06 sca=12.241 scb=0.00942952 scc=0.00011999
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0682P	AS=0.03255P	PD=1.06U	PS=0.83U
+ fw=3.1e-07 sa=4.95e-07 sb=2e-06 sca=11.314 scb=0.00849585 scc=0.00011741
Mmp4	Mmp2:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0682P	AS=0.0651P	PD=1.06U	PS=1.04U
+ fw=3.1e-07 sa=7.6e-07 sb=2e-06 sca=10.5719 scb=0.0081746 scc=0.000117241
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.31U
+ AD=0.0651P	AS=0.1059P	PD=1.04U	PS=1.52U
+ fw=3.1e-07 sa=1.015e-06 sb=2e-06 sca=10.5719 scb=0.0081746 scc=0.000117241
Mmp5@1	Y	Mmn5@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.47U
+ AD=0.0752P	AS=0.07733P	PD=1.26U	PS=1.282U	M=10
+ fw=4.7e-07 sa=9.24468e-07 sb=1.985e-06 sca=13.3727 scb=0.0119208 scc=0.000609828
.ENDS
.END
